US08580794B2
tert-butyl (1-acetylpyrrolidin-3-yl)methylcarbamate
The title compound was prepared by substituting tert-butyl pyrrolidin-3-ylmethylcarbamate for tert-butyl piperidin-3-ylmethylcarbamate and acetyl chloride for methanesulfonyl chloride in EXAMPLE 147A.

reactant | tert-butyl piperidin-3-ylmethylcarbamate | N1CC(CCC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | tert-butyl (1-acetylpyrrolidin-3-yl)methylcarbamate | C(C)(=O)N1CC(CC1)CNC(OC(C)(C)C)=O | C12H22N2O3
